Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
syncope, transfer 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with no significant past medical 
history who presents with syncope. Per patient, he was feeling 
lightheaded at work on ___ - he felt as though his 
equilibrium was off, and like there was "flapping of birds' 
wings in my ear" on right side. ___ he was standing in his 
bathroom shaving when he had a sudden loss of consciousness. He 
does not remember having any chest pain or palpitations before 
this, was not lightheaded or dizzy. Fell to the ground and bit 
his lip. He woke up and his wife helped him up. Had a second 
episode that lasted for approximately 30 seconds. 911 was 
called. Had a third episode after that. No chest pain, shortness 
breath, lightheadedness prior to any of these episodes. Recent 
travel to visit his family member in ___. No leg swelling. No 
abdominal pain. He was first brought to ___ 
___ where he was found to have a positive d-dimer and 
therefore had a CTA. This showed a 4 cm ascending aortic 
aneurysm. He was then transferred here for further evaluation.

In the ED, initial vitals: T 97.8, HR 51, BP 109/67, RR 15, 97% 
RA
   
Labs were significant for  
- CBC: WBC 5.7, Hgb 13.9, Plt 232
- Lytes:  
140 / 103 / 19   
-------------- 100 
4.4 \ 25 \ 1.2  

- Trop negative x2

No further imaging was done in the ED 
  
In the ED, pt received no medications

Vitals prior to transfer: HR 48, BP 100/54, RR 15, 97% RA  

Currently, patient reports that he is feeling well with no 
complaints. 
 
ROS: No fevers, chills, night sweats, or weight changes. No 
changes in vision or hearing, no changes in balance. No cough, 
no shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
- leg pain
- insomnia
 
Social History:
___
Family History:
- Sister - ___ disease
- Father - lymphoma 
 
Physical ___:
===========================
EXAM ON ADMISSION
===========================
VS: 98.7, HR 54, BP 117/83, RR 20, 99%RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2, ___ systolic ejection murmur at ___
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal 

===========================
EXAM ON DISCHARGE
===========================
VS: T 98.1, HR 50, BP 131/81, RR 20, 97% RA 
Ambulatory heart rates: ___
GEN: Alert, pacing around room
PULM: CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2, ___ systolic ejection murmur at ___
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal 

 
Pertinent Results:
================================  
LABS ON ADMISSION  
================================  
___ 02:50PM BLOOD WBC-5.7 RBC-4.33* Hgb-13.9 Hct-40.4 
MCV-93 MCH-32.1* MCHC-34.4 RDW-11.9 RDWSD-40.9 Plt ___
___ 02:50PM BLOOD Neuts-67.2 Lymphs-17.8* Monos-11.7 
Eos-2.4 Baso-0.7 Im ___ AbsNeut-3.86 AbsLymp-1.02* 
AbsMono-0.67 AbsEos-0.14 AbsBaso-0.04
___ 02:50PM BLOOD ___ PTT-26.1 ___
___ 02:50PM BLOOD Glucose-100 UreaN-19 Creat-1.2 Na-140 
K-4.4 Cl-103 HCO3-25 AnGap-12
___ 06:13AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.2

================================  
PERTINENT INTERVAL LABS  
================================  
___ 02:50PM BLOOD Cholest-229*
___ 02:50PM BLOOD %HbA1c-5.5 eAG-111
___ 02:50PM BLOOD Triglyc-108 HDL-58 CHOL/HD-3.9 
LDLcalc-149*
___ 02:50PM BLOOD TSH-1.2

================================  
LABS ON DISCHARGE  
================================  
___ 06:13AM BLOOD WBC-5.0 RBC-4.57* Hgb-14.1 Hct-41.8 
MCV-92 MCH-30.9 MCHC-33.7 RDW-11.9 RDWSD-40.2 Plt ___
___ 06:13AM BLOOD Glucose-103* UreaN-19 Creat-1.2 Na-142 
K-4.6 Cl-102 HCO3-25 AnGap-15

================================  
MICROBIOLOGY  
================================  
- ___ urine culture - negative
- ___ ___ IGM/IGG - negative
- ___ RPR - negative 

================================  
IMAGING  
================================  
## ___ CT head w/o contrast:
No definite acute intracranial process.  Moderate 
periventricular and subcortical white matter hypodensities which 
are entirely nonspecific but commonly due to chronic small 
vessel disease, to be correlated with
patient's risk factors. 

## ___ TTE:
CONCLUSION:
The left atrium is elongated. The right atrium is moderately 
enlarged. There is no evidence for an atrial septal defect by 
2D/color Doppler. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
left ventricular systolic function. Quantitative 3D volumetric 
left ventricular ejection fraction is 63 %. Left ventricular 
cardiac index is normal (>2.5 L/min/m2). There is no left 
ventricular outflow tract gradient at rest or with Valsalva. 
There is Grade I diastolic dysfunction. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus is 
mildly dilated with moderately dilated ascending aorta. The 
aortic arch is moderately dilated. The aortic valve is bicuspid 
with moderately thickened leaflets. There is mild aortic valve 
stenosis (valve area 1.5-1.9 cm2). There is mild [1+] aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Bicuspid aortic valve suggested with mild stenosis and 
mild aortic regurgitation. Mild-moderately dilated ascending 
aorta. Mild mitral regurgitation.

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with no significant past medical 
history who presents with syncope.

=================================
ACUTE MEDICAL ISSUES ADDRESSED
=================================

# Syncope - Patient presented to OSH following 3 episodes of 
sudden loss of consciousness. A CTA at the outside hospital 
showed no signs of PE. NCHCT was normal. Trops were negative, 
and EKG without signs of ischemia. Patient was monitored on 
telemetry and found to be in sinus bradycardia to ___ with 
no PR prolongation, which increased to ___ with ambulation. No 
arrhythmias noted on telemetry. A TTE was done showing a 
bicuspid aortic valve, but only mild AS. Patient was evaluated 
by the EP team, who felt that this was most likely due to a 
vasovagal episode, and no additional monitoring would be needed. 


# Ascending aortic aneurysm - As part of syncope workup, patient 
had a d-dimer which was positive. Therefore had a CTA performed 
at ___ which revealed a 4.9 cm fusiform ascending aortic 
aneurysm. He was therefore transferred to ___ for cardiac 
surgery eval. He was seen by cardiac surgery, who recommended no 
urgent intervention. He will have a repeat non-con chest CT and 
clinic visit with Dr. ___ in cardiac surgery in 6 months. 

=============================
TRANSITIONAL ISSUES
=============================
[] Should be referred to cardiology clinic given new diagnosis 
of aortic stenosis and bicuspid aortic valve. 
[] Should have serial TTEs for monitoring of bicuspid aortic 
valve. 
[] Will need follow up with cardiac surgery in 6 months with a 
CT chest w/o contrast. Cardiac surgery office to schedule this 
appointment. 
[] If patient has further episodes would consider Holter 
monitoring
[] Instructed to not take trazodone with alcohol
[] ___ serologies sent in ED given bradycardia, pending at time 
of discharge, to be followed by inpatient team 
# Name of health care proxy: ___ 
Relationship: wife 
Cell phone: ___ 
# Code: Full (presumed)

___ is clinically stable for discharge today.  On the 
day of discharge, greater than 30 minutes were spent on the 
planning, coordination, and communication of the discharge plan. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diclofenac Sodium ___ 75 mg PO BID 
2. TraZODone 150 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Diclofenac Sodium ___ 75 mg PO BID  
2.  TraZODone 150 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- syncope

Secondary Diagnoses:
- 4.9 cm fusiform ascending aortic aneurysm
- sinus bradycardia
- bicuspid aortic valve

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You passed out at home. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We monitored your heart rate and looked for any irregular 
heart rhythm. 
- We did an echo of your heart. This showed a "bicuspid aortic 
valve" which is where one of the valves of your heart has two 
pieces instead of three. 
- You were found to have a bulge, called an aneurysm, of your 
aorta, which is a large blood vessel. You were seen by the 
cardiac surgery team, who plan to continue to monitor this. You 
will need to see them again in 6 months to repeat the CT scan. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Do not take trazodone with alcohol until you know how it might 
affect you.
- Please call your primary care doctor or go to the Emergency 
Department right away if this happens again. 

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___